US05962682
1.13 g of methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate were dissolved in a mixture of toluene/pyridine (20 ml/30 ml) treated dropwise while cooling with ice with a solution of 1.05 g of 4-tert.butyl-benzenesulphonyl chloride in toluene (30 ml) and subsequently stirred at RT for 24 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate and the organic phase was dried over magnesium sulphate. After removing the solvent there was obtained methyl 3-(4-tert-butyl-benzenesulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a yellow solid.

reactant | methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 1.13 g | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C22H26ClNO7
reactant | 4-tert.butyl-benzenesulphonyl chloride | 1.05 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | toluene pyridine | 20 ml | C1(=CC=CC=C1)C.N1=CC=CC=C1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-tert-butyl-benzenesulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C32H38ClNO9S
